* \\Mac\Home\Desktop\fuzz\ltspice\Fuzz Test.asc
R5 N003 N008 22k
R3 N004 N011 220k
Vcc N005 0 9
R81 N013 0 22k
R92 N014 0 R=V(alpha_vol)*Rvol
R72 N011 0 50k
Vin input 0 wavefile="./x.wav" chan=0
Rout output 0 100k
R93 N009 N014 R=(1-V(alpha_vol))*Rvol
R4 N003 N004 R=(1-V(alpha_lin))*Rlin
R6 N004 0 R=V(alpha_lin)*Rlin
V2 alpha_lin 0 PWL(0 0.5 10 0.5)
Rin N010 input 22k
C71 N011 N010 4.7µ
C94 N009 N008 4.7µ
C81 N013 0 4.7µ
C91 output N014 4.7µ
R7 N012 0 40k
Rout1 output_port9 0 100k
R8 N007 N012 10k
C1 output_port9 N012 4.7µ
V4 N006 0 wavefile = "./x.wav" chan=0
C2 N007 N006 4.7µ
R9 output_port8 0 22k
C3 output_port8 0 4.7µ
V3 output_port8 0 wavefile = "./x.wav" chan=0
R10 output_port7 0 50k
Vin1 N002 0 wavefile="./x.wav" chan=0
Rin1 N001 N002 22k
C4 output_port7 N001 4.7µ
R11 output_port7 0 100k
R2 N008 N011 12k
R1 N011 N013 23k
R12 N003 N005 1e-2
V1 alpha_vol 0 PWL(0 0.5 10 0.5)
.tran 0.1
.param Rlin 10k
.wav "./output_fuzz_static.wav" 32 {Fs} V(output)
.wav "./input_fuzz_static.wav" 32 {Fs} V(input)
.wav "./output_port9.wav" 32 48k V(output_port9)
.wav "./output_port8.wav" 32 48k V(output_port8)
.wav "./output_port7.wav" 32 48k V(output_port7)
.include "./standard.bjt"
.param Rvol 50k
.param Fs 48000
.backanno
.end
